US06310070B1
0.48 ml of dimethylsulfoxide was added to a solution of 1.49 g (6.15 mmol) of 4-benzyloxy-3,5-dimethylbenzyl alcohol in 40 ml of chlorotrimethylsilane, and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under vacuum. The concentrate was dissolved in ethyl acetate, washed with distilled water and saturation brine, and dried over anhydrous magnesium sulfate. The residue obtained by concentrating the dry product under vacuum was dissolved in 30 ml of N,N-dimethylformamide. This solution was mixed with a suspension of 0.88 g (4.1 mmol) of 4-benzylideneamino-5-imidazolecarboxamide and 2.27 g (16.4 mmol) of potassium carbonate in 30 ml of N,N-dimethylformamide. After the addition of 1.64 ml of distilled water, the mixture was heated for 10 minutes and stirred overnight. The reaction solution was concentrated under vacuum and distilled water was added to the concentrate to precipitate a crude product. The precipitate was collected by filtration using a funnel glass filter. The solid obtained was washed with distilled water and toluene, and dried under vacuum to obtain 4-benzylidene amino-1-(4-benzyloxy-3,5-dimethylbenzyl)-5-imidazole carboxamide. The resulting compound was suspended in 25 ml of 1,4-dioxane and 25 ml of 1N aqueous solution of hydrochloric acid was added, followed by stirring overnight. The reaction solution was washed with ether, added 25 ml of methanol, and neutralized with 4N aqueous solution of sodium hydroxide. The organic solvent was evaporated under vacuum and the residue was allowed to stand overnight in a refrigerator. The precipitated solid was collected by filtration, washed with distilled water, and dried to obtain 1.10 g of 4-amino-1-(4-benzyloxy-3,5-dimethylbenzyl)-5-imidazole carboxamide (yield 86%).

reactant | dimethylsulfoxide | 0.48 ml | CS(=O)C | C2H6OS
reactant | 4-benzyloxy-3,5-dimethylbenzyl alcohol | 6.15 mmol, 1.49 g | C(C1=CC=CC=C1)OC1=C(C=C(CO)C=C1C)C | C16H18O2
reactant | 4-benzylideneamino-5-imidazolecarboxamide | 4.1 mmol, 0.88 g | C(C1=CC=CC=C1)=NC=1N=CNC1C(=O)N | C11H10N4O
reactant | potassium carbonate | 16.4 mmol, 2.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | chlorotrimethylsilane | 40 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 1.64 ml | O | H2O
product | 4-benzylidene amino-1-(4-benzyloxy-3,5-dimethylbenzyl)-5-imidazole carboxamide | C(C1=CC=CC=C1)=NC=1N=CN(C1C(=O)N)CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C | C27H26N4O2
